US07232821B2
F(ii) 6-[2-(5-Methyl-2-Hydroxyphenyl)Cyclopent-1-Enyl]Pyridine-2-Carboxylic Acid Ethyl Ester
60% Sodium hydride (2 mg) was added to a solution of 6-[2-(5-methyl-2-acetoxyphenyl)cyclopent-1-enyl]pyridine-2-carboxylic acid ethyl ester in ethanol (5 ml) and left overnight at room temperature then diluted with water/diethyl ether and acidified with acetic acid. The organic phase was washed with saturated sodium bicarbonate solution, dried (magnesium sulphate) and evaporated to give the title compound as a pale yellow gum (271 mg, 99%). LC/MS: Rt 3.3 [MH+] 324.4

reactant | Sodium hydride | 2 mg | [H-].[Na+]
reactant | 6-[2-(5-methyl-2-acetoxyphenyl)cyclopent-1-enyl]pyridine-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=NC(=CC=C1)C1=C(CCC1)C1=C(C=CC(=C1)C)OC(C)=O | C22H23NO4
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | water diethyl ether | O.C(C)OCC
product | 6-[2-(5-Methyl-2-Hydroxyphenyl)Cyclopent-1-Enyl]Pyridine-2-Carboxylic Acid Ethyl Ester | 271 mg, 99% | C(C)OC(=O)C1=NC(=CC=C1)C1=C(CCC1)C1=C(C=CC(=C1)C)O | C20H21NO3
